US07425634B2
(84c) 5,7-dioxaspiro[2.5]oct-6-ylmethanol
To a mixture of 5,7-dioxaspiro[2.5]oct-6-ylmethyl benzoate (25.1 g, 101 mmol) obtained in the step (84b) above and methanol (150 ml), a 2N aqueous sodium hydroxide solution (55.6 ml, 111 mmol) was added at an inner temperature of 0 to 4° C. After the mixture was stirred at room temperature for 3 hours, a saturated aqueous ammonium chloride solution was added to the mixture to adjust pH to about 9. The mixture was concentrated under reduced pressure by about the amount of methanol. Ethyl acetate was added to the residue and the organic layer was separated. The aqueous layer was extracted with ethyl acetate and then sodium chloride was added to the obtained water layer. The mixture was extracted with ethyl acetate and then the organic layers were combined and washed with a saturated saline solution. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was removed by distillation to obtain the title compound (10 g, yield: 68.6%) as a colorless oil.

reactant | 5,7-dioxaspiro[2.5]oct-6-ylmethyl benzoate | 101 mmol, 25.1 g | C(C1=CC=CC=C1)(=O)OCC1OCC2(CC2)CO1 | C14H16O4
reactant | sodium hydroxide | 111 mmol, 2N, 55.6 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 150 ml | CO | CH4O
product | 5,7-dioxaspiro[2.5]oct-6-ylmethanol | 10 g, yield: 68.6% | C1CC12COC(OC2)CO | C7H12O3
